US07452880B2
Step 2. Preparation of 4-Chloro-2-(2-chloro-phenoxy)-pyrimidine
To a solution of 2-chlorophenol (10.5 g) in 150 mL dry THF) at 0° C. under argon was added 88 mL of a 1.0 M solution of potassium t-butoxide in THF. The reaction mixture was stirred for 15 minutes and then cooled to −78° C. A solution of 4-Chloro-2-methanesulfonyl-pyrimidine (14.2 g, 2.6 mmol) in 160 mL of dry THF was slowly added over 25 minutes. The reaction mixture was stirred for an additional 30 minutes at −78° C., and then quenched by addition of 60 mL saturated aqueous ammonium chloride, and evaporated under reduced pressure to remove THF. 200 mL water, and 200 mL EtOAc were added, the organic phase was collected, and the aqueous phase was washed twice with 150 mL EtOAc. The combined organic layers were washed with brine, dried over MgSO4, filtered, and evaporated under reduced pressure. The residue was purified by flash chromatography (5% to 10% EtOAc/Hexanes) to 10.2 g of 4-Chloro-2-(2-chloro-phenoxy)-pyrimidine. Mass Spec. M+H=242.

reactant | 2-chlorophenol | 10.5 g | ClC1=C(C=CC=C1)O | C6H5ClO
reactant | potassium t-butoxide | CC(C)([O-])C.[K+]
reactant | 4-Chloro-2-methanesulfonyl-pyrimidine | 2.6 mmol, 14.2 g | ClC1=NC(=NC=C1)S(=O)(=O)C | C5H5ClN2O2S
solvent | THF | 150 mL | C1CCOC1 | C4H8O
solvent | THF | 160 mL | C1CCOC1 | C4H8O
product | 4-Chloro-2-(2-chloro-phenoxy)-pyrimidine | ClC1=NC(=NC=C1)OC1=C(C=CC=C1)Cl | C10H6Cl2N2O
